US06316482B1
To a solution of benzyl 1-tert-butoxycarbonyl-2-hydroxymethylindole-4-carboxylate (465 mg), phthalimide (179 mg) and triphenylphosphine (640 mg) in tetrahydrofuran (15.0 ml) was added diethyl azodicarboxylate (425 mg) and the mixture was stirred at ambient temperature for 1 hour. The resulting mixture was concentrated in vacuo and the residue was chromatographed on silica gel with n-hexane:ethyl acetate (6:1). The solid was triturated with methanol to give benzyl 1-tert-butoxycarbonyl-2-phthalimidomethylindole-4-carboxylate (440 mg).

reactant | benzyl 1-tert-butoxycarbonyl-2-hydroxymethylindole-4-carboxylate | 465 mg | C(C)(C)(C)OC(=O)N1C(=CC=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1)CO | C22H23NO5
reactant | phthalimide | 179 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 640 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 425 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15.0 ml | O1CCCC1 | C4H8O
product | benzyl 1-tert-butoxycarbonyl-2-phthalimidomethylindole-4-carboxylate | 440 mg | C(C)(C)(C)OC(=O)N1C(=CC=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C30H26N2O6
